US06716825B2
To a mixture of adefovir (1.36 g, 5 mmol) and 3-hexadecyloxy-1-propanol (1.8 g, 6 mmol) in dry pyridine was added DCC (2.06 g, 10 mmol). The mixture was heated to reflux and stirred 18 h then cooled and filtered. The filtrate was concentrated under reduced pressure and the residue was applied to a short column of silica gel. Elution of the column with 9:1 dichloromethane/methanol yielded hexadecyloxypropyl-adefovir (HDP-ADV) as a white powder.

reactant | adefovir | 5 mmol, 1.36 g | C1=NC(=C2C(=N1)N(C=N2)CCOCP(=O)(O)O)N | C8H12N5O4P
reactant | 3-hexadecyloxy-1-propanol | 6 mmol, 1.8 g | C(CCCCCCCCCCCCCCC)OCCCO | C19H40O2
reactant | DCC | 10 mmol, 2.06 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | hexadecyloxypropyl-adefovir | CCCCCCCCCCCCCCCCOCCCOP(=O)(COCCN1C=NC2=C1N=CN=C2N)O | C27H50N5O5P
